US08859591B2
At −40° C., isopropylmagnesium chloride lithium chloride (15.3 mL, 1.3 M in THF, 19.9 mmol) was added dropwise to a solution of ethyl 4-iodobenzoate (5000 mg, 18.11 mmol) in tetrahydrofuran (30 mL). The solution was stirred at −40° C. for 40 minutes. Butyraldehyde (1830 mg, 25.4 mmol) was added. The mixture was allowed to warm to room temperature over 3 hours. The reaction was quenched with 1N HCl and extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated to give ethyl 4-(1-hydroxybutyl)benzoate. 1H NMR (400 MHz, CDCl3, δ): 8.02 (d, J=8.6 Hz, 2H), 7.41 (d, J=8.0 Hz, 2H), 4.83-4.66 (m, 1H), 4.38 (q, J=7.2 Hz, 2H), 1.86 (d, J=3.7 Hz, 1H), 1.83-1.61 (m, 2H), 1.51-1.42 (m, 1H), 1.39 (t J=7.2 Hz, 3H), 1.36-1.23 (m, 1H), 0.94 (t, J=7.6 Hz, 3H).

reactant | isopropylmagnesium chloride lithium chloride | 19.9 mmol, 1.3 M, 15.3 mL | [Cl-].[Li+].C(C)(C)[Mg]Cl
reactant | ethyl 4-iodobenzoate | 18.11 mmol, 5000 mg | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | Butyraldehyde | 25.4 mmol, 1830 mg | C(CCC)=O | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl 4-(1-hydroxybutyl)benzoate | OC(CCC)C1=CC=C(C(=O)OCC)C=C1 | C13H18O3
